US04500733
Anhydrous barium hydroxide (0.86 g) was added to 10 ml of absolute ethanol, and 1.76 g of ethyl 2-acetyl-4,6,6,6-tetrachloro-3,3-dimethylhexanoate was then added thereto, while the reaction mixture was cooled with ice. After stirring at room temperature for 2 hours, the mixture was rendered neutral with an ethereal hydrogen chloride, while cooled with ice, the solvent was distilled off. The resulting residue was dissolved in diethyl ether, and the solution was washed successively with water, aqueous sodium bicarbonate, and aqueous sodium chloride and dried over anhydrous magnesium sulfate. The solvent ws distilled off, and the residue was purified by column chromatography (silica gel-benzene) to give 1.3 g (82% yield) of ethyl 1-acetyl-2-(2,2,2-trichloroethyl)-3,3-dimethylcyclopropanecarboxylate.

reactant | barium hydroxide | 0.86 g | [OH-].[Ba+2].[OH-]
reactant | ethyl 2-acetyl-4,6,6,6-tetrachloro-3,3-dimethylhexanoate | 1.76 g | C(C)(=O)C(C(=O)OCC)C(C(CC(Cl)(Cl)Cl)Cl)(C)C | C12H18Cl4O3
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 1-acetyl-2-(2,2,2-trichloroethyl)-3,3-dimethylcyclopropanecarboxylate | 1.3 g, 82% yield | C(C)(=O)C1(C(C1(C)C)CC(Cl)(Cl)Cl)C(=O)OCC | C12H17Cl3O3
